US07601716B2
3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid ethyl ester
1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (7.5 g) was reacted with 3-ethoxycarbonyl phenyl boronic acid as in General Procedure 4A. The title compound was obtained as a white solid (72% yield). m.p.=174° C., LCMS: m/z=475.95 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.40 (t, 3H), 3.48 (m, 2H), 3.69 (m, 2H), 4.32 (q, 2H), 4.63 (s, 2H), 5.51 (bs, 1H), 6.52 (s, 1H), 7.35 (m, 1H), 7.42 (m, 1H), 7.48 (s, 1H), 7.54 (m, 1H), 7.65 (d, 1H), 7.70 (s, 1H), 7.90 (d, 1H), 8.03 (s, 1H).

reactant | 1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 7.5 g | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)I)C1)C(F)(F)F | C15H12ClF3IN3
reactant | 3-ethoxycarbonyl phenyl boronic acid | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
product | 3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)C1=CC2=C(NCCN2CC2=C(C=CC(=C2)Cl)C(F)(F)F)N=C1)=O | C24H21ClF3N3O2
